US07910613B2
2-Amino-4-phenyl-thiazole-5-carbonitrile (Intermediate for 5-[1,2,4]oxadiazol-3-yl-4-phenyl-thiazol-2-ylamine)
2-Bromo-3-oxo-3-phenylpropionitrile (0.5 g, 3.4 mmol) was mixed with thiourea (0.52 g, 6.8 mmol) and iodine (0.43 g, 3.4 mmol) and the mixture was heated on a steam bath for 12 h. It was then diluted with water and made alkaline with saturated aqueous NH4OH, and extracted with ethyl acetate. The organic phases were washed with water and brine, dried over sodium sulfate, and evaporated to dryness to give the crude product, which was used in the next reaction without any further purification. Yield: 0.2 g, 29%.

reactant | 2-Bromo-3-oxo-3-phenylpropionitrile | 3.4 mmol, 0.5 g | BrC(C#N)C(C1=CC=CC=C1)=O | C9H6BrNO
reactant | thiourea | 6.8 mmol, 0.52 g | NC(=S)N | CH4N2S
reactant | iodine | 3.4 mmol, 0.43 g | II | I2
reactant | NH4OH | [NH4+].[OH-]
solvent | water | O | H2O
product | 2-Amino-4-phenyl-thiazole-5-carbonitrile | NC=1SC(=C(N1)C1=CC=CC=C1)C#N | C10H7N3S
